US04492598
14.3 g (0.06 mole) of 2-chlorocycloheptylsulfonyl isocyanate in 100. ml of dichloromethane were initially introduced and 7.4 g (0.06 mole) of 2-amino-4,6-dimethylpyrimidine were added in portions at 0° C. The mixture was stirred initially at 0° C. for 2 hours and then at room temperature for 18 hours. The organic phase was then extracted with 3×40 ml of 2N H2SO4, washed to neutrality and the organic layer was dried over Na2SO4. Then 50 ml of n-hexane was added and the solvent was distilled off in vacuo. 13.3 g (61% of theory) of N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-2-chlorocycloheptylsulfonamide were obtained (viscous oil).

reactant | 2-chlorocycloheptylsulfonyl isocyanate | 0.06 mole, 14.3 g | ClC1C(CCCCC1)S(=O)(=O)N=C=O | C8H12ClNO3S
reactant | 2-amino-4,6-dimethylpyrimidine | 0.06 mole, 7.4 g | NC1=NC(=CC(=N1)C)C | C6H9N3
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-2-chlorocycloheptylsulfonamide | 13.3 g, 61% | CC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1C(CCCCC1)Cl | C14H21ClN4O3S
